US04672066
The reaction of 0.80 g of 3-[3-(4-acetyl-3-hydroxy-2-propylphenoxy)propoxy]benzoic acid with 0.35 g of 3-pyridine butanamine according to Example 40 gave 0.95 g, mp 84°-86°, (88% yield) of 3-[3-(4-Acetyl-3-hydroxy-2-propylphenoxy)propoxy]-N-[4-(3-pyridinyl)butyl]benzamide, the title compound.

reactant | 3-[3-(4-acetyl-3-hydroxy-2-propylphenoxy)propoxy]benzoic acid | 0.80 g | C(C)(=O)C1=C(C(=C(OCCCOC=2C=C(C(=O)O)C=CC2)C=C1)CCC)O | C21H24O6
reactant | 3-pyridine butanamine | 0.35 g | N1=CC(=CC=C1)CCCCN | C9H14N2
product | 3-[3-(4-Acetyl-3-hydroxy-2-propylphenoxy)propoxy]-N-[4-(3-pyridinyl)butyl]benzamide | 88% yield | C(C)(=O)C1=C(C(=C(OCCCOC=2C=C(C(=O)NCCCCC=3C=NC=CC3)C=CC2)C=C1)CCC)O | C30H36N2O5
